US06664260B2
Benzyltrimethylammonium chloride (0.436 g) and propargyl bromide (6.07 mL of 80%) were added with stirring to a mixture of dichloromethane (185 mL) and aqueous sodium hydroxide (60 mL of 50%). 2-(1H-Imidazo[4,5-c]quinolin-1-yl)ethanol (10.0 g, 46.9 mmol) was added to the resulting solution. The reaction mixture was stirred at ambient temperature for 21 hours at which time analysis by HPLC showed that starting material remained. An additional equivalent of propargyl bromide was added and the reaction mixture was stirred for an additional 46 hours. Water was added to the reaction mixture and the layers were separated. The aqueous fraction was extracted with dichloromethane. The organic fractions were combined, washed with water and with brine, dried over magnesium sulfate and then concentrated under reduced pressure to provide a dark brown solid. This material was purified by flash chromatography (silica gel eluting with 5% methanol in dichloromethane) to provide 7.0 g of 1-[2-propynyloxy)ethyl]-1H-imidazo[4,5-c]quinoline as a brownish solid.

reactant | propargyl bromide | 6.07 mL | C(C#C)Br | C3H3Br
reactant | dichloromethane | 185 mL | ClCCl | CH2Cl2
reactant | sodium hydroxide | 60 mL | [OH-].[Na+]
reactant | 2-(1H-Imidazo[4,5-c]quinolin-1-yl)ethanol | 46.9 mmol, 10.0 g | N1(C=NC=2C=NC=3C=CC=CC3C21)CCO | C12H11N3O
catalyst | Benzyltrimethylammonium chloride | 0.436 g | [Cl-].C(C1=CC=CC=C1)[N+](C)(C)C
solvent | Water | O | H2O
product | 1H-imidazo[4,5-c]quinoline | N1C=NC=2C=NC=3C=CC=CC3C21 | C10H7N3
